US08871756B2
Pyridazine-3-carboxamide
To a cooled solution of pyridazine-3-carboxylic acid (1.0 g, 8.06 mmol) in tetrahydrofuran (40 mL) in a dry-ice bath was added 4-methyl-morpholine (0.9 g, 8.87 mmol) and isopropyl chloroformate (1.1 g, 8.87 mmol) slowly. The reaction was stirred at −30° C. for 6 hours, then an aqueous solution of ammonia (8 mL, 10% W/W) was added. The resulting mixture was stirred at room temperature overnight, washed with a saturated aqueous solution of potassium bisulfate (50 mL). The aqueous layer was extracted with ethyl acetate (30 mL×3). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to afford 202.5 mg of the desired product (yield was 20.4%). MS obsd. (ESI+) [(M+H)+] 124, 1H NMR (400 MHz, CD3OD) δ ppm 9.45-9.35 (t, J=1.6 Hz, 1 H), 8.58 (s, 1 H), 8.23-8.15 (d, J=7.6 Hz, 1 H), 7.98-7.88 (m, 2 H).

reactant | pyridazine-3-carboxylic acid | 8.06 mmol, 1.0 g | N1=NC(=CC=C1)C(=O)O | C5H4N2O2
reactant | 4-methyl-morpholine | 8.87 mmol, 0.9 g | CN1CCOCC1 | C5H11NO
reactant | isopropyl chloroformate | 8.87 mmol, 1.1 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | ammonia | 8 mL | N | H3N
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | Pyridazine-3-carboxamide | 202.5 mg, yield was 20.4% | N1=NC(=CC=C1)C(=O)N | C5H5N3O
